US04237138
N-Acetyl-4-hydroxypiperidine (5.0 g.) in tetrahydrofuran (THF) (50 ml.) was added to a stirred suspension of sodium hydride (1.84 g., 50% dispersion in mineral oil) in tetrahydrofuran (THF) (25 ml.) under an atmosphere of nitrogen. When effervescence had ceased, styrene oxide (4.6 g.) in THF (25 ml.) was added, then the reaction mixture was diluted with dimethylformamide (DMF) (25 ml.) and stirred at 60° C. for 18 hours. After addition of isopropanol to the cooled solution, the solvent was removed in vacuo, the residue treated with water, adjusted to pH 4 with 2 N hydrochloric acid, and extracted with chloroform. The chloroform extract was dried (Na2SO4) and the solvent evaporated in vacuo to give N-acetyl-4(2-hydroxyphenethyloxy)piperidine. This product in ethanol (50 ml.) and 5 N sodium hydroxide solution (100 ml.) was heated under reflux for 3 hours. The solvent was then removed in vacuo, the residue taken up in water, extracted with chloroform, dried and the solvent evaporated in vacuo. The product in chloroform was converted to the hydrochloride salt by treatment with ethereal hydrogen chloride and evaporation of the solvent.

reactant | N-Acetyl-4-hydroxypiperidine | 5.0 g | C(C)(=O)N1CCC(CC1)O | C7H13NO2
reactant | sodium hydride | 1.84 g | [H-].[Na+]
reactant | styrene oxide | 4.6 g | C1C(C2=CC=CC=C2)O1 | C8H8O
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | THF | 25 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | N-acetyl-4(2-hydroxyphenethyloxy)piperidine | C(C)(=O)N1CCC(CC1)OCCC1=C(C=CC=C1)O | C15H21NO3
